US04065467
A solution consisting of methyl 3-acetyl-4-hydroxy-benzoate (60 g) and methyl 2-isopropoxy-benzoate (120 g) in dioxane (400 ml) was slowly added under stirring at room temperature to a suspension of sodium hydride 50% (45 g) in dioxane (200 ml). The mixture was kept for 4 hours at 80° C, cooled, then diluted with petroleum ether (600 ml), and subsequently, filtered. The collected precipitate was dissolved in water, acidified with acetic acid and extracted with ethylacetate. The organic phase was washed with potassium carbonate 5% and water, then evaporated to dryness and crystallised from ethanol to give (2-hydroxy-5-carbomethoxy-benzoyl)-(2-isopropoxy-benzoyl)-methane (70 g); m.p. 105°-107° C) which was then refluxed for 15 minutes with formic acid 99% (280 ml). After cooling and dilution in water (one liter) and filtration, the collected precipitate was crystallised from acetone to obtain 6-carbomethoxy-2'-isopropoxy-flavone (60 g; m.p. 154°-155° C), which was hydrolysed with a solution of potassium hydroxide 1% (l. 1,020) in ethanol 95% at reflux temperature for 30 minutes. The mixture was cooled, acidified with acetic acid, concentrated under vacuum to obtain a precipitate, which was filtered, washed with ethanol (95%) and water to give, after crystallisation from ethanol, 6-carboxy-2'-isopropoxy-flavone (45 g; m.p. 209°-211° C).

reactant | methyl 3-acetyl-4-hydroxy-benzoate | 60 g | C(C)(=O)C=1C=C(C(=O)OC)C=CC1O | C10H10O4
reactant | methyl 2-isopropoxy-benzoate | 120 g | C(C)(C)OC1=C(C(=O)OC)C=CC=C1 | C11H14O3
reactant | sodium hydride | 45 g | [H-].[Na+]
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | (2-hydroxy-5-carbomethoxy-benzoyl)-(2-isopropoxy-benzoyl)-methane | 70 g | OC1=C(C(=O)CC(C2=C(C=CC=C2)OC(C)C)=O)C=C(C=C1)C(=O)OC | C20H20O6
